US06821967B2
a. 9-(4-bromo-butyl)-9H-xanthene-9-carboxylic acid-Butylamide
Prepared analogously to Example 1 from n-butylamine and 9-(4-bromo-butyl)-9H-xanthene-9-carboxylic acid chloride.

reactant | n-butylamine | C(CCC)N | C4H11N
reactant | 9-(4-bromo-butyl)-9H-xanthene-9-carboxylic acid chloride | BrCCCCC1(C2=CC=CC=C2OC=2C=CC=CC12)C(=O)Cl | C18H16BrClO2
product | 9-(4-bromo-butyl)-9H-xanthene-9-carboxylic acid-Butylamide | C(CCC)NC(=O)C1(C2=CC=CC=C2OC=2C=CC=CC12)CCCCBr | C22H26BrNO2
